US07745641B2
In a similar manner to Step 2 of Reference Example 2, 5-[1-(tert-butoxycarbonyl)piperidine-4-carbonylamino]indole (140 mg, 0.408 mmol) was dissolved in acetonitrile (6 mL), and the solution was treated with di-tert-butyldicarbonate (0.103 mL, 0.448 mmol) and DMAP (1.0 mg, 0.0082 mmol), followed by purification by flash column chromatography (hexane/ethyl acetate=95/5 to 90/10 to 80/20 to 70/30 to 60/40 to 50/50) to obtain 5-[1-(tert-butoxycarbonyl)piperidine-4-carbonylamino]-1-(tert-butoxycarbonyl)indole (117 mg, yield 65%).

reactant | 5-[1-(tert-butoxycarbonyl)piperidine-4-carbonylamino]indole | 0.408 mmol, 140 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NC=1C=C2C=CNC2=CC1 | C19H25N3O3
reactant | di-tert-butyldicarbonate | 0.448 mmol, 0.103 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
catalyst | DMAP | 0.0082 mmol, 1.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-[1-(tert-butoxycarbonyl)piperidine-4-carbonylamino]-1-(tert-butoxycarbonyl)indole | 117 mg, yield 65% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NC=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C24H33N3O5
